US04148914
A solution of trans-2-dimethylaminocyclohexanol (58 g.; 0.405 mole) in 80 ml. of THF was added during 10 minutes to a suspension of NaH (17.05 g.; 0.405 mole of 57% dispersion in mineral oil) in 240 ml. of THF and the mixture was refluxed for 3 hours. It was cooled to 10°, and methanesulfonyl chloride (46.39 g.; 0.405 mole) was added dropwise during 30 minutes keeping the temperature below 15°. Benzylamine (86.79 g.; 0.81 mole) was then added during 5 minutes, the solvent was evaporated and heating continued at 95° for 16 hours. NaOH (500 ml. of 20% solution) was added and the mixture heated at 95° for 1 hour, cooled and extracted with ether (5×100 ml.). The ether solution was extracted with 10% HCl (6×100 ml.) and backwashed once with ether (discard). The acid extract was cooled, basified with 20% NaOH and extracted well with ether. The ether solution was washed with H2O, saturated salt solution, dried (MgSO4) and evaporated. Distillation at 0.4 mm gave 61 g. (65% yield) of N,N-dimethyl-N'-benzyl-1,2-cyclohexanediamine, b.p. 112°. It was identical by tlc to the sample prepared by the reaction of benzylamine with trans-2-chloro-dimethylaminocyclohexane.

reactant | trans-2-dimethylaminocyclohexanol | 0.405 mole, 58 g | CN([C@H]1[C@@H](CCCC1)O)C | C8H17NO
reactant | NaH | 0.405 mole, 17.05 g | [H-].[Na+]
reactant | methanesulfonyl chloride | 0.405 mole, 46.39 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Benzylamine | 0.81 mole, 86.79 g | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | C1CCOC1 | C4H8O
product | N,N-dimethyl-N'-benzyl-1,2-cyclohexanediamine | 65% yield | CN(C1C(CCCC1)NCC1=CC=CC=C1)C | C15H24N2
